US06727256B1
N-(1-Benzyl-1H-indazol-5-yl)-7-fluoro-6-[5-({[2-(methanesulphonyl)ethyl]amino}methyl)-2-furyl]-4-quinazolinamine
Prepared according to Procedure D from 5-(4-(1-Benzyl-1H-indazol-5-ylamino)-7-fluoro-quinazolin-6-yl)-furan-2-carbaldehyde (0.6 equiv) and 2-methanesulphonyl-ethylamine (1 equiv). δ 1H NMR (400 MHz, DMSO-d6) 10.16(s, 1H), 8.91(d, 1H), 8.46(s, 1H), 8.11(s, 2H), 7.65(m, 3H), 7.26(m, 5H), 6.93(m, 1H), 6.54(d, 2H), 5.65(s, 2H), 3.89(s, 2H), 3.28(m, 2H), 2.99(m, 5H). ESI-MS m/z 569(M−1).

reactant | 5-(4-(1-Benzyl-1H-indazol-5-ylamino)-7-fluoro-quinazolin-6-yl)-furan-2-carbaldehyde | 0.6 equiv | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=C(C=C12)C1=CC=C(O1)C=O)F | C27H18FN5O2
reactant | 2-methanesulphonyl-ethylamine | 1 equiv | CS(=O)(=O)CCN | C3H9NO2S
product | N-(1-Benzyl-1H-indazol-5-yl)-7-fluoro-6-[5-({[2-(methanesulphonyl)ethyl]amino}methyl)-2-furyl]-4-quinazolinamine | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=C(C=C12)C=1OC(=CC1)CNCCS(=O)(=O)C)F | C30H27FN6O3S
